US04474754
14(b). Preparation of Z-Ser-Leu-Ser-OCH3
3.19 Grams of Z-Ser-NHNH2 was dissolved in 25 ml of dimethylformamide, and 6.30 ml of 6N-hydrochloric acid/dioxane was added to the solution, cooled to -15° C., then 1.69 ml of isoamyl nitrite was added thereto. After the reaction mixture shows a negative reaction in hydrazine-test, 1.76 ml of a cold dimethylformamide solution with 5.29 ml of triethylamine was added drop by drop in small amount to neutralize the reaction mixture. This reaction mixture containing an azide product was added to 20 ml of a cold dimethylformamide solution containing H-Leu-Ser-OCH3.HCl obtained in the above-mentioned step 14(a) and 1.60 ml of triethylamine, and the whole mixture was stirred at -10° to -15° C. for 2 hours, next at 4° C. for 18 hours. Dimethylformamide was removed by distillation under a reduced pressure, the residue obtained was solidified by adding water, reprecipitated from methanol-ethyl acetate to obtain 4.11 g of the desired product.

reactant | Z-Ser-NHNH2 | N([C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C11H15N3O4
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | isoamyl nitrite | 1.69 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | azide | [N-]=[N+]=[N-]
reactant | H-Leu-Ser-OCH3.HCl | N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)OC.Cl
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | hydrazine | NN | H4N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.76 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 1.60 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 5.29 ml | C(C)N(CC)CC | C6H15N
product | Z-Ser-Leu-Ser-OCH3 | 4.11 g | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C21H31N3O8
